US05908945
1.1 g (10 mmol) of 3-methyl-cyclohex-2-en-1-one and 14 mg (0.2 mmol) of CuBr are introduced into 15 ml of THF. 5.78 ml (11 mmol) of a 1.6 molar triethylaluminum solution in toluene and 2.16 g (20 mmol) of trimethylsilyl chloride are added at 0° C. and stirred for 3 hours at room temperature. It is hydrolyzed with 10 ml of 1N hydrochloric acid, extracted with ethyl acetate and the solvent is evaporated. After chromatography on silica gel, 1.26 g (90% of theory) of 3-ethyl-3-methyl-cyclohexanone is obtained.

reactant | 3-methyl-cyclohex-2-en-1-one | 10 mmol, 1.1 g | CC1=CC(CCC1)=O | C7H10O
reactant | triethylaluminum | 1.6 molar | C(C)[Al](CC)CC
reactant | trimethylsilyl chloride | 20 mmol, 2.16 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-ethyl-3-methyl-cyclohexanone | 1.26 g, 90% | C(C)C1(CC(CCC1)=O)C | C9H16O
